US06586429B2
To a stirring solution of (R)-3-(5-acetoxyhexyl)-7,8-dihydro-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (3.5 g, 10.0 mmol) and diisopropylethylamine (10.32 g, 80 mmol) in chloroform (100 ml) was added chloromethyl ethyl ether (3.78 g, 40 mmol). After stirring at room temperature for 16 hours, the reaction mixture was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with ethyl acetate to provide (R)-3-(5-acetoxyhexyl)-7,8-dihydro-8-ethoxymethyl-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (2.0 g, 49% yield).

reactant | (R)-3-(5-acetoxyhexyl)-7,8-dihydro-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 10.0 mmol, 3.5 g | C(C)(=O)O[C@@H](CCCCN1C(N(C=2N=C3N(C2C1=O)CCN3)C)=O)C | C16H23N5O4
reactant | diisopropylethylamine | 80 mmol, 10.32 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl ethyl ether | 40 mmol, 3.78 g | C(C)OCCl | C3H7ClO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | (R)-3-(5-acetoxyhexyl)-7,8-dihydro-8-ethoxymethyl-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 2.0 g, 49% yield | C(C)(=O)O[C@@H](CCCCN1C(N(C=2N=C3N(C2C1=O)CCN3COCC)C)=O)C | C19H29N5O5
